US07265144B2
Step 2: Preparation of 3-(4-fluorophenyl)-1-(2-methylphenyl)-1H-pyrazol-5-amine
To a solution of 3-amino-3-(4-fluorophenyl)acrylonitrile (600 mg, 3.70 mmol) in 1 N HCl (6 mL) was added (2-methylphenyl)hydrazine hydrochloride (558 mg, 3.51 mmol). The reaction was refluxed for 16 h, and then cooled to rt. The resulting mixture was basified to pH 12 by slow addition of 1 N aqueous sodium hydroxide. The precipitate was collected by filtration, and then recrystallized from EtOH/Et2O to afford the intermediate (800 mg, 81%) as a light orange solid. 1H NMR (400 MHz, CD2Cl2) δ 2.20 (s, 3H), 2.14 (br s, 2H), 5.91 (s, 1H), 7.06 (t, 2H), 7.36 (d, 4H), 7.75 (m, 2H). This material was used without further purification.

reactant | 3-amino-3-(4-fluorophenyl)acrylonitrile | 3.70 mmol, 600 mg | NC(=CC#N)C1=CC=C(C=C1)F | C9H7FN2
reactant | (2-methylphenyl)hydrazine hydrochloride | 3.51 mmol, 558 mg | Cl.CC1=C(C=CC=C1)NN
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | HCl | 1 N, 6 mL | Cl | ClH
product | 3-(4-fluorophenyl)-1-(2-methylphenyl)-1H-pyrazol-5-amine | 800 mg, 81% | FC1=CC=C(C=C1)C1=NN(C(=C1)N)C1=C(C=CC=C1)C | C16H14FN3
